* Auto-rendered SKY130 candidate deck
.lib "/home/yhanafy/pdks/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.temp 27.0
.option savecurrents
.param VDD=1.8
.param VSS=0.0
.param VCM=0.9
.param VBIAS=0.6
.param W_INPUT=41.83333333333333
.param W_LOAD=6.06122732142104
.param W_TAIL=96.73830322356514
.param W_STAGE2=1.6241626092920438
.param W_SINK=12.960973970187915
.param C_MILLER=3e-12
.param L_DEFAULT=5e-07
.param W_M1=41.83333333333333
.param W_M2=41.83333333333333
.param W_M3=6.06122732142104
.param W_M4=6.06122732142104
.param W_M5=96.73830322356514
.param W_M6=1.6241626092920438
.param W_M7=12.960973970187915
.param L_DEFAULT_UM=0.5
.param W_M1_UM=41.83333333333333
.param W_M2_UM=41.83333333333333
.param W_M3_UM=6.06122732142104
.param W_M4_UM=6.06122732142104
.param W_M5_UM=96.73830322356514
.param W_M6_UM=1.6241626092920438
.param W_M7_UM=12.960973970187915

.include "/home/yhanafy/AMS-Tutorial/openams/examples/two_stage_opamp/inputs/netlist.spice"

VDD_SRC vdd 0 1.8
VSS_SRC vss 0 0.0
VBIAS_SRC vbias 0 0.6
VINP inp 0 dc 0.9 ac 0.5
VINN inn 0 dc 0.9 ac -0.5
XU1 inp inn out vdd vss vbias two_stage_opamp
CL out 0 1e-11



* OPENAMS_GENERIC_VALIDATION_CONTROL
.control
set noaskquit
set filetype=ascii
op
echo OPENAMS_OP_BEGIN
print v(xu1.ntail) v(xu1.n1) v(xu1.n2) v(vbias) v(out)
print vdd_src#branch vss_src#branch vbias_src#branch
echo OPENAMS_OP_END
echo OPENAMS_DEVICE_BEGIN
print @m.xu1.xm1.msky130_fd_pr__nfet_01v8[id] @m.xu1.xm1.msky130_fd_pr__nfet_01v8[gm] @m.xu1.xm1.msky130_fd_pr__nfet_01v8[gds] @m.xu1.xm1.msky130_fd_pr__nfet_01v8[vds] @m.xu1.xm1.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xu1.xm2.msky130_fd_pr__nfet_01v8[id] @m.xu1.xm2.msky130_fd_pr__nfet_01v8[gm] @m.xu1.xm2.msky130_fd_pr__nfet_01v8[gds] @m.xu1.xm2.msky130_fd_pr__nfet_01v8[vds] @m.xu1.xm2.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xu1.xm3.msky130_fd_pr__pfet_01v8[id] @m.xu1.xm3.msky130_fd_pr__pfet_01v8[gm] @m.xu1.xm3.msky130_fd_pr__pfet_01v8[gds] @m.xu1.xm3.msky130_fd_pr__pfet_01v8[vds] @m.xu1.xm3.msky130_fd_pr__pfet_01v8[vdsat]
print @m.xu1.xm4.msky130_fd_pr__pfet_01v8[id] @m.xu1.xm4.msky130_fd_pr__pfet_01v8[gm] @m.xu1.xm4.msky130_fd_pr__pfet_01v8[gds] @m.xu1.xm4.msky130_fd_pr__pfet_01v8[vds] @m.xu1.xm4.msky130_fd_pr__pfet_01v8[vdsat]
print @m.xu1.xm5.msky130_fd_pr__nfet_01v8[id] @m.xu1.xm5.msky130_fd_pr__nfet_01v8[gm] @m.xu1.xm5.msky130_fd_pr__nfet_01v8[gds] @m.xu1.xm5.msky130_fd_pr__nfet_01v8[vds] @m.xu1.xm5.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xu1.xm6.msky130_fd_pr__pfet_01v8[id] @m.xu1.xm6.msky130_fd_pr__pfet_01v8[gm] @m.xu1.xm6.msky130_fd_pr__pfet_01v8[gds] @m.xu1.xm6.msky130_fd_pr__pfet_01v8[vds] @m.xu1.xm6.msky130_fd_pr__pfet_01v8[vdsat]
print @m.xu1.xm7.msky130_fd_pr__nfet_01v8[id] @m.xu1.xm7.msky130_fd_pr__nfet_01v8[gm] @m.xu1.xm7.msky130_fd_pr__nfet_01v8[gds] @m.xu1.xm7.msky130_fd_pr__nfet_01v8[vds] @m.xu1.xm7.msky130_fd_pr__nfet_01v8[vdsat]
echo OPENAMS_DEVICE_END
ac dec 100 1 10000000000
wrdata openams_ac.dat frequency vdb(out) vp(out)
quit
.endc
.end
